US07049438B2
4-(2-chloro-5-methoxyanilino)-5-(4-methylpiperazin-1-yl)-7-(2-pyrrolidin-1-ylethoxy)quinazoline trihydrochloride
Using an analogous procedure to that described in Example 5, 4-chloro-5-(4-methylpiperazin-1-yl)-7-(2-pyrrolidin-1-ylethoxy)quinazoline (0.11 g) was reacted with 2-chloro-5-methoxyaniline hydrochloride (0.064 g) in the presence of a 6M solution of hydrogen chloride in isopropanol (0.05 ml) to give the title compound, as a trihydrochloride salt (0.092 g), a portion of which was converted into the free base using an analogous procedure to that described in Example 3. The free base gave the following characterising data: NMR Spectrum: (CDCl3) 1.8–1.9 (m, 4H), 2.32 (s, 3H), 2.48 (m, 2H), 2.65 (br s, 4H), 2.82 (d, 2H), 2.98 (m, 4H), 3.2 (d, 2H), 3.82 (s, 3H), 4.25 (m, 2H), 6.65 (m, 1H), 6.95 (m, 1H), 7.3 (d, 1H), 8.02 (d, 1H), 8.52 (s, 1H); Mass Spectrum: M+H+ 497 and 499.

reactant | 4-chloro-5-(4-methylpiperazin-1-yl)-7-(2-pyrrolidin-1-ylethoxy)quinazoline | 0.11 g | ClC1=NC=NC2=CC(=CC(=C12)N1CCN(CC1)C)OCCN1CCCC1 | C19H26ClN5O
reactant | 2-chloro-5-methoxyaniline hydrochloride | 0.064 g | Cl.ClC1=C(N)C=C(C=C1)OC
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | 0.05 ml | C(C)(C)O | C3H8O
product | 4-(2-chloro-5-methoxyanilino)-5-(4-methylpiperazin-1-yl)-7-(2-pyrrolidin-1-ylethoxy)quinazoline trihydrochloride | Cl.Cl.Cl.ClC1=C(NC2=NC=NC3=CC(=CC(=C23)N2CCN(CC2)C)OCCN2CCCC2)C=C(C=C1)OC | InChI=1S/C26H33ClN6O2.3ClH/c1-31-9-11-33(12-10-31)24-17-20(35-14-13-32-7-3-4-8-32)16-23-25(24)26(29-18-28-23)30-22-15-19(34-2)5-6-21(22)27;;;/h5-6,15-18H,3-4,7-14H2,1-2H3,(H,28,29,30);3*1H
